US05153194
A suspension of 2.5 g of 2-methyl-4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]thiophene-5-acetic acid and 1.95 g of 4-chlorophenyl hydrazine in 50 ml of toluene is refluxed under heating for 4 hours. After cooling, the mixture is concentrated under reduced pressure and the precipitated crystals are recrystallzed from ethanol to give 2.7 g of 2-(4-chlorophenyl)-9-methyl-2,4,4a,5,6,7-hexahydro-3H-thieno[2',3':6,7]cyclohepta[1,2-c]pyridazin-3-one, melting at 119°-121° C.

reactant | 2-methyl-4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]thiophene-5-acetic acid | 2.5 g | CC1=CC2=C(S1)CCCC(C2=O)CC(=O)O | C12H14O3S
reactant | 4-chlorophenyl hydrazine | 1.95 g | ClC1=CC=C(C=C1)NN | C6H7ClN2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-chlorophenyl)-9-methyl-2,4,4a,5,6,7-hexahydro-3H-thieno[2',3':6,7]cyclohepta[1,2-c]pyridazin-3-one | 2.7 g | ClC1=CC=C(C=C1)N1N=C2C(CC1=O)CCCC1=C2C=C(S1)C | C18H17ClN2OS
